### PR TITLE
Add Dubner's Conjecture

### PR DESCRIPTION
**Pull request by ellow0rld**
This PR adds the formal statement for Dubner's Conjecture (Issue #3628) in the Paper directory since it's not present on Wikipedia.

I have verified that the file builds successfully with the lake build. Kindly let me know if any changes are needed.

Thanks!

### CODE REVIEW

**Comment by ellow0rld** [comment]
@Paul-Lez @mo271 Could any of you please review my PR?
Thanks

File: FormalConjectures/Paper/Dubner.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+# Dubner's conjecture
+
+*Reference*: [Every even number greater than 4208 is the sum of two t-primes](https://scispace.com/pdf/twin-prime-conjectures-3icaxy6b0m.pdf)
+by *Harvey Dubner*.
+-/
+
+namespace DubnerConjecture
+
+/--
+A twin prime is a prime number that has a prime gap of 2, meaning either p - 2 or p + 2 is also prime.
```
Comment (smmercuri) [inline FormalConjectures/Paper/Dubner.lean]: to keep within 100 chars
```suggestion
A twin prime is a prime number that has a prime gap of 2, meaning either p - 2 or p + 2 
is also prime.
```

**Review by smmercuri — COMMENTED** [review]
LGTM apart from some styling. I would also encourage you to add some tests of the form
```lean
@[category test, AMS 11]
theorem t2 : ¬IsTwinPrime 2 := by 
  norm_num [IsTwinPrime]
``` 
to check and demonstrate the behaviour of `IsTwinPrimes. These are useful for maintenance, so that if there is a future issue with `dubner_conjecture` then we know it is not to do with `IsTwinPrime`

File: FormalConjectures/Paper/Dubner.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+/--
+Every even number greater than 4208 is the sum of two twin primes.
+-/
+@[category research open, AMS 11]
+theorem dubner_conjecture :
+  ∀ n : ℕ, n > 4208 → Even n →
+    ∃ p q : ℕ,
+      IsTwinPrime p ∧
+      IsTwinPrime q ∧
+      p + q = n := by
```
Comment (smmercuri) [inline FormalConjectures/Paper/Dubner.lean]:
```suggestion
theorem dubner_conjecture (n : ℕ) (hn : 4208 < n) (h : Even n) : 
    ∃ p q : ℕ,
      IsTwinPrime p ∧
      IsTwinPrime q ∧
      p + q = n := by
```

File: FormalConjectures/Paper/Dubner.lean (hunk 1 above)
Comment (ellow0rld) [reply FormalConjectures/Paper/Dubner.lean]: Done.

File: FormalConjectures/Paper/Dubner.lean (hunk 2 above)
Comment (ellow0rld) [reply FormalConjectures/Paper/Dubner.lean]: Fixed.

**Review by smmercuri — APPROVED** [review]
